US09060519B2
A solution of 1-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]ethanone oxime (0.1 g, 0.436 mmol) in acetonitrile (5 ml) was stirred at ambient temperature and treated with cesium carbonate (0.43 g, 1.31 mmol) and 2-chloropyrimidine (0.079 g, 0.654 mmol). The reaction mixture was allowed to stir at ambient temperature and monitored by TLC and LC/MS. After 2 days, the mixture was concentrated in vacuo. The residue was stirred with ethyl acetate, filtered and the ethyl acetate concentrated in vacuo. Purification by recrystallisation gave a single isomer of 1-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]-N-pyrimidin-2-yloxy-ethanimine (70 mg, 23%) in form of beige crystals.

reactant | 1-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]ethanone oxime | 0.436 mmol, 0.1 g | N1=CC(=CC=C1)C1=NN=C(S1)C(C)=NO | C9H8N4OS
reactant | cesium carbonate | 1.31 mmol, 0.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloropyrimidine | 0.654 mmol, 0.079 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]-N-pyrimidin-2-yloxy-ethanimine | 70 mg, 23% | N1=CC(=CC=C1)C1=NN=C(S1)C(C)=NOC1=NC=CC=N1 | C13H10N6OS
